US07683056B2
cis-1-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)octahydropyrrolo[1,2-a]pyrazine (D73)
To a solution of cis-Octahydropyrrolo[1,2-a]pyrazin-1-ylmethanol (D72, 198 mg) in anhydrous DCM (10 mL) under a Nitrogen atmosphere at room temperature, triethylamine (350 microL) and t-butyldimethylsilylchloride (286 mg) were added. The resulting solution was stirred at room temperature overnight then diluted with water (5 mL). The aqueous phase was extracted with DCM (2×10 mL). The combined organic extracts were dried and concentrated in vacuo to a residue which was purified by flash chromatography (DCM/0.5M NH3 in MeOH from 100/0 to 90/10) to give the desired compound (195 mg) as yellow oil.

reactant | cis-Octahydropyrrolo[1,2-a]pyrazin-1-ylmethanol | 198 mg | [C@@H]1([C@H]2N(CCN1)CCC2)CO | C8H16N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilylchloride | 286 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | cis-1-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)octahydropyrrolo[1,2-a]pyrazine | 195 mg | CC(C)(C)[Si](OC[C@H]1[C@H]2N(CCN1)CCC2)(C)C | C14H30N2OSi
